US07592453B2
(3aS*,4R*,9bR*)-4-(4-Chlorophenyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline dihydrochloride
To a mixture of benzyl (3aR*,4R*,9bR*)-4-(4-chlorophenyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate (730 mg, 1.75 mmol) and 10% palladium on carbon (50% aqueous, 0.3 g) in ethanol (10 ml) was added a hydrogen chloride in methanol solution (1 ml) and the mixture was stirred at room temperature under hydrogen atmosphere for 3 hrs. The reaction mixture was filtered, washed with aqueous methanol, and the filtrate was concentrated. The residue was dried under reduced pressure to give the crude title compound as an oil. (350 mg, ca. 100%)

reactant | benzyl (3aR*,4R*,9bR*)-4-(4-chlorophenyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate | 1.75 mmol, 730 mg | ClC1=CC=C(C=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)OCC2=CC=CC=C2 | C25H23ClN2O2
reactant | hydrogen chloride | Cl | ClH
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | methanol | 1 ml | CO | CH4O
product | (3aS*,4R*,9bR*)-4-(4-Chlorophenyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2 | InChI=1S/C17H17ClN2.2ClH/c18-12-7-5-11(6-8-12)16-14-9-10-19-17(14)13-3-1-2-4-15(13)20-16;;/h1-8,14,16-17,19-20H,9-10H2;2*1H/t14-,16+,17+;;/m1../s1
